### ISSUE TITLE
performance issue in placeholder inlay hints

### ISSUE THREAD

**Issue by onriv** [onriv/lean4ij#41]
on the following exmaple, typing on the comment there is some lag in the input
turning of placeholder inlay hints it seems better

No sure if it's also related to lsp semantic highlight

```lean
import Mathlib

/-
-- editing here there will be some lag in the input
-/
def Submonoid.Setoid [CommMonoid M] (N: Submonoid M) : Setoid M where
    r := fun x y ↦ ∃ w ∈ N, ∃ z ∈ N, x*w=y*z
    iseqv := {
      refl := fun x ↦ ⟨1, N.one_mem, 1, N.one_mem, rfl⟩
      symm := fun ⟨w, hw, z, hz, h⟩ ↦ by
        exact ⟨z, hz, w, hw, h.symm⟩
      -- TODO is this really this complicated?
      trans := @fun {x y z} ⟨w', hw', z', hz', h'⟩ ⟨w'', hw'', z'', hz'', h''⟩ ↦ by
        use w'*w'', N.mul_mem hw' hw''
        use z'*z'', N.mul_mem hz' hz''
        calc x * (w' * w'')
        _ = (x*w')*w'' := by rw [Semigroup.mul_assoc]
        _ = y*z' * w'' := by rw [h']
        _ = y*(z'*w'') := by rw [←Semigroup.mul_assoc y _]
        _ = y*(w''*z') := by rw [CommMonoid.mul_comm z' _]
        _ = y*w''*z' := by rw [←Semigroup.mul_assoc]
        _ = z*z''*z' := by rw [h'']
        _ = z*(z''*z') := by rw [Semigroup.mul_assoc]
        _ = z*(z'*z'') := by rw [CommMonoid.mul_comm z'' _]
    }

example [CommMonoid M] (N: Submonoid M) : Setoid M where
    r := fun x y ↦ ∃ w ∈ N, ∃ z ∈ N, x*w=y*z
    iseqv := {
      refl := fun x ↦ ⟨1, N.one_mem, 1, N.one_mem, rfl⟩
      symm := fun ⟨w, hw, z, hz, h⟩ ↦ by
        exact ⟨z, hz, w, hw, h.symm⟩
      -- TODO is this really this complicated?
      trans := @fun {x y z} ⟨w', hw', z', hz', h'⟩ ⟨w'', hw'', z'', hz'', h''⟩ ↦ by
        use w'*w'', N.mul_mem hw' hw''
        use z'*z'', N.mul_mem hz' hz''
        calc x * (w' * w'')
        _ = (x*w')*w'' := by rw [Semigroup.mul_assoc]
        _ = y*z' * w'' := by rw [h']
        _ = y*(z'*w'') := by rw [←Semigroup.mul_assoc y _]
        _ = y*(w''*z') := by rw [CommMonoid.mul_comm z' _]
        _ = y*w''*z' := by rw [←Semigroup.mul_assoc]
        _ = z*z''*z' := by rw [h'']
        _ = z*(z''*z') := by rw [Semigroup.mul_assoc]
        _ = z*(z'*z'') := by rw [CommMonoid.mul_comm z'' _]
    }

example [CommMonoid M] (N: Submonoid M) : Setoid M where
    r := fun x y ↦ ∃ w ∈ N, ∃ z ∈ N, x*w=y*z
    iseqv := {
      refl := fun x ↦ ⟨1, N.one_mem, 1, N.one_mem, rfl⟩
      symm := fun ⟨w, hw, z, hz, h⟩ ↦ by
        exact ⟨z, hz, w, hw, h.symm⟩
      -- TODO is this really this complicated?
      trans := @fun {x y z} ⟨w', hw', z', hz', h'⟩ ⟨w'', hw'', z'', hz'', h''⟩ ↦ by
        use w'*w'', N.mul_mem hw' hw''
        use z'*z'', N.mul_mem hz' hz''
        calc x * (w' * w'')
        _ = (x*w')*w'' := by rw [Semigroup.mul_assoc]
        _ = y*z' * w'' := by rw [h']
        _ = y*(z'*w'') := by rw [←Semigroup.mul_assoc y _]
        _ = y*(w''*z') := by rw [CommMonoid.mul_comm z' _]
        _ = y*w''*z' := by rw [←Semigroup.mul_assoc]
        _ = z*z''*z' := by rw [h'']
        _ = z*(z''*z') := by rw [Semigroup.mul_assoc]
        _ = z*(z'*z'') := by rw [CommMonoid.mul_comm z'' _]
    }

example [CommMonoid M] (N: Submonoid M) : Setoid M where
    r := fun x y ↦ ∃ w ∈ N, ∃ z ∈ N, x*w=y*z
    iseqv := {
      refl := fun x ↦ ⟨1, N.one_mem, 1, N.one_mem, rfl⟩
      symm := fun ⟨w, hw, z, hz, h⟩ ↦ by
        exact ⟨z, hz, w, hw, h.symm⟩
      -- TODO is this really this complicated?
      trans := @fun {x y z} ⟨w', hw', z', hz', h'⟩ ⟨w'', hw'', z'', hz'', h''⟩ ↦ by
        use w'*w'', N.mul_mem hw' hw''
        use z'*z'', N.mul_mem hz' hz''
        calc x * (w' * w'')
        _ = (x*w')*w'' := by rw [Semigroup.mul_assoc]
        _ = y*z' * w'' := by rw [h']
        _ = y*(z'*w'') := by rw [←Semigroup.mul_assoc y _]
        _ = y*(w''*z') := by rw [CommMonoid.mul_comm z' _]
        _ = y*w''*z' := by rw [←Semigroup.mul_assoc]
        _ = z*z''*z' := by rw [h'']
        _ = z*(z''*z') := by rw [Semigroup.mul_assoc]
        _ = z*(z'*z'') := by rw [CommMonoid.mul_comm z'' _]
    }

example [CommMonoid M] (N: Submonoid M) : Setoid M where
    r := fun x y ↦ ∃ w ∈ N, ∃ z ∈ N, x*w=y*z
    iseqv := {
      refl := fun x ↦ ⟨1, N.one_mem, 1, N.one_mem, rfl⟩
      symm := fun ⟨w, hw, z, hz, h⟩ ↦ by
        exact ⟨z, hz, w, hw, h.symm⟩
      -- TODO is this really this complicated?
      trans := @fun {x y z} ⟨w', hw', z', hz', h'⟩ ⟨w'', hw'', z'', hz'', h''⟩ ↦ by
        use w'*w'', N.mul_mem hw' hw''
        use z'*z'', N.mul_mem hz' hz''
        calc x * (w' * w'')
        _ = (x*w')*w'' := by rw [Semigroup.mul_assoc]
        _ = y*z' * w'' := by rw [h']
        _ = y*(z'*w'') := by rw [←Semigroup.mul_assoc y _]
        _ = y*(w''*z') := by rw [CommMonoid.mul_comm z' _]
        _ = y*w''*z' := by rw [←Semigroup.mul_assoc]
        _ = z*z''*z' := by rw [h'']
        _ = z*(z''*z') := by rw [Semigroup.mul_assoc]
        _ = z*(z'*z'') := by rw [CommMonoid.mul_comm z'' _]
    }
```
